US07115750B1
4-(2-Benzo[b]furanyl)benzoic acid
Benzofuranyl-2-boric acid (2.1 g), palladium tetratriphenylphosphine (200 mg) and 2M aqueous sodium carbonate solution were added to toluene (40 ml)-ethanol (10 ml) solution of ethyl 4-bromobenzoate (2.3 g), which was refluxed at 80° C. for 5 hours under an argon atmosphere. The reaction mixture was diluted with water, and extraction was conducted using ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride solution, dried, and then concentrated. The resulting residue was purified using silica gel chromatography (development solvent; ethyl acetate:hexane=1:4), and concentrated, which was dissolved in methanol (10 ml)-THF (10 ml). 8 mol of aqueous sodium hydroxide solution (8 ml) was added to the resulting solution at room temperature, which was stirred for 2 hours. After 1 mol of hydrochloric acid was added to the reaction mixture to make the mixture acidic, extraction was conducted using ethyl acetate-THF (1:1). The organic layer was washed with water and saturated aqueous sodium chloride solution, dried, and then concentrated. The resulting residue was washed with hexane to give the titled compound (2.272 g).

reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl 4-bromobenzoate | 2.3 g | BrC1=CC=C(C(=O)OCC)C=C1 | C9H9BrO2
reactant | sodium hydroxide | 8 mol, 8 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 mol | Cl | ClH
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-(2-Benzo[b]furanyl)benzoic acid | 2.272 g | O1C2=C(C=C1C1=CC=C(C(=O)O)C=C1)C=CC=C2 | C15H10O3
